US07601716B2
(7-Iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)phenylmethanone
7-Iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (50 mg) was reacted with benzoyl chloride as in General Procedure 2 to give the title compound as a pale yellow solid (61% yield). M.p. 164-166° C., LCMS: m/z=366.00 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.45-3.50 (m, 2H), 3.90 (t, J=4.8 Hz, 2H), 7.37-7.47 (m, 6H), 7.95 (s, 1H).

reactant | 7-Iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 50 mg | IC1=CC2=C(NCCN2)N=C1 | C7H8IN3
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | (7-Iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)phenylmethanone | 61% yield | IC1=CC2=C(NCCN2C(=O)C2=CC=CC=C2)N=C1 | C14H12IN3O
